US07217723B2
5-Bromothiophene-2-sulfonic acid[2-(4-fluorophenyl)ethyl]amide
To a solution of 5-bromothiophene-2-sulfonyl chloride (600 mg) in tetrahydrofuran (5 mL) was added dropwise triethylamine (0.64 mL) and 4-fluorophenethylamine (0.36 mL) on an ice bath. After stirring for 15 minutes on an ice bath, the solution was further stirred at room temperature for 2 hours. After dilution with ethyl acetate and washing with 5N hydrochloric acid, water, an aqueous solution of saturated sodium bicarbonate and saturated sodium chloride water, the solution was dried with anhydrous sodium sulfate. Silica gel filtration was carried out, and the solvent was removed by evaporation to provide the title compound (860 mg) as a colorless oily matter.

reactant | 5-bromothiophene-2-sulfonyl chloride | 600 mg | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | triethylamine | 0.64 mL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorophenethylamine | 0.36 mL | FC1=CC=C(CCN)C=C1 | C8H10FN
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-Bromothiophene-2-sulfonic acid[2-(4-fluorophenyl)ethyl]amide | 860 mg | FC1=CC=C(C=C1)CCNS(=O)(=O)C=1SC(=CC1)Br | C12H11BrFNO2S2
